US07700641B2
Synthesis of 1′-{[5-(methylsulfonyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A mixture of 1′-[(5-bromo-2-furyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (0.70 g, 1.59 mmol), sodium methanesulfinate (85%, 0.23 g, 1.91 mmol), copper (I) iodide (0.04 g, 0.22 mmol), L-proline (0.04 g, 0.35 mmol) and dimethyl sulfoxide (4.00 mL) was heated at 100° C. After 3 days, the reaction mixture was cooled down to ambient temperature, quenched with water (50.0 mL) and extracted with ethyl acetate (3×40.0 mL). The combined organic layers was washed with brine (2×50.0 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate:hexane (30-50%) to afford the title compound (0.50 g, 71%): mp 177-179° C.; 1H NMR (300 MHz, CDCl3) δ 7.29 (t, 1H), 7.19 (d, 1H), 7.12-7.04 (m, 2H), 6.94 (d, 1H), 6.50 (s, 1H), 6.42 (d, 1H), 6.11 (s, 1H), 5.86 (s, 2H), 5.00 (ABq, 2H), 4.79 (ABq, 2H), 3.11 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.3, 155.9, 154.5, 149.1, 149.1, 142.4, 141.1, 131.9, 129.1, 124.2, 124.1, 119.0, 118.4, 109.9, 108.7, 102.9, 101.6, 93.7, 80.3, 58.2, 43.4, 37.2; MS (ES+) m/z 440.0 (M+1).

reactant | 1′-[(5-bromo-2-furyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 1.59 mmol, 0.70 g | BrC1=CC=C(O1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C21H14BrNO5
reactant | sodium methanesulfinate | 1.91 mmol, 0.23 g | CS(=O)[O-].[Na+]
reactant | L-proline | 0.35 mmol, 0.04 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copper (I) iodide | 0.22 mmol, 0.04 g | [Cu]I
solvent | dimethyl sulfoxide | 4.00 mL | CS(=O)C | C2H6OS
product | 1′-{[5-(methylsulfonyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.50 g, 71% | CS(=O)(=O)C1=CC=C(O1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H17NO7S
